US07115740B2
3-Fluoro-4-nitrophenol (10.17 g, 64.7 mmol) (Aldrich) was dissolved in dimethylformamide (210 mL). Potassium carbonate (45 g, 323 mmol) and methyl iodide (5 mL, 77.64 mmol) (Aldrich) were added and the reaction mixture was stirred at room temperature overnight. (TLC: 20% ethyl acetate in hexanes showed complete conversion). The reaction mixture was filtered through a bed of Celite®, and concentrated under reduced pressure. The crude material was triturated with ether and insoluble materials were removed by filtration. The filtrate was concentrated under reduce pressure to afford an orange solid. This material (11.43 g) was dissolved in methanol (150 mL) and hydrogenated for 1.5 hours in a Parr apparatus at 50 psi, in the presence of 10% palladium on carbon (1.5 g) (Aldrich). (TLC: 20% ethyl acetate in hexanes showed complete conversion). The reaction mixture was filtered through Celite® washed with ethyl acetate, then concentrated under reduced pressure to afford 2-fluoro-4-methoxyaniline as a solid. (Yield 3.81 g, 26.99 mmol).

reactant | 3-Fluoro-4-nitrophenol | 64.7 mmol, 10.17 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | Potassium carbonate | 323 mmol, 45 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 77.64 mmol, 5 mL | CI | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 210 mL | CN(C=O)C | C3H7NO
solvent | methanol | 150 mL | CO | CH4O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | 2-fluoro-4-methoxyaniline | FC1=C(N)C=CC(=C1)OC | C7H8FNO
